US09078444B2
Preparation of 2-chloro-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-N-[(E)-methoxyiminomethyl]benzamide (C3)
A solution of 2-chloro-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]benzamide (50 mg) and N,N-Dimethylformamide dimethylacetal (1 mL) was refluxed under Argon for 30 min then the solution was concentrated in vacuo. The residue was dissolved in 1,4-dioxane (0.48 mL) and a solution of O-methylhydroxylamine hydrochloride (2.8 eq.) and sodium hydroxide (6 eq.) in water (0.43 mL) and acetic acid (0.43 mL) was added. The solution was stirred at rt for one hour. It was then quenched by addition of water and extracted with methyl tert-butyl ether. The combined organic extracts were washed with brine, dried over sodium sulfate and evaporated. Flash Chromatography eluting with Cyclohexane:EtOAc afforded 30 mg of the title compound.

reactant | 2-chloro-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]benzamide | 50 mg | ClC1=C(C(=O)N)C=CC(=C1)C1=NSC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H10Cl3F3N2OS
reactant | N,N-Dimethylformamide dimethylacetal | 1 mL | COC(N(C)C)OC | C5H13NO2
reactant | O-methylhydroxylamine hydrochloride | 2.8 eq. | Cl.CON
reactant | sodium hydroxide | 6 eq. | [OH-].[Na+]
solvent | water | 0.43 mL | O | H2O
solvent | acetic acid | 0.43 mL | C(C)(=O)O | C2H4O2
product | 2-chloro-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-N-[(E)-methoxyiminomethyl]benzamide | 30 mg | ClC1=C(C(=O)N/C=N/OC)C=CC(=C1)C1=NSC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H13Cl3F3N3O2S
